US08119692B2
4-Methoxy-4-o-tolyl-butyric acid methyl ester (Intermediate E10)
To a solution of the 4-methoxy-4-o-tolyl-butyric acid obtained above in 6 mL methanol was added 60 μL concentrated H2SO4 at room temperature. After stirring for 12 h the reaction mixture was concentrated under reduced pressure. Water was added to the residue and the mixture extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (2×10 mL) and dried over Na2SO4. The product was isolated by flash column chromatography eluting with 0% to 10% ethyl acetate/hexane to give 229 mg of the title compound as an oil.

reactant | 4-methoxy-4-o-tolyl-butyric acid | COC(CCC(=O)O)C1=C(C=CC=C1)C | C12H16O3
reactant | H2SO4 | 60 μL | OS(=O)(=O)O | H2O4S
reactant | methanol | 6 mL | CO | CH4O
product | 4-Methoxy-4-o-tolyl-butyric acid methyl ester | 229 mg | COC(CCC(C1=C(C=CC=C1)C)OC)=O | C13H18O3
